US08232403B2
Methaneslufonyl chloride (5.5 mL, 71 mmol) is added dropwise to a mixture of [2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinolin-3-yl]methanol (13.7 g, 28.5 mmol) and N,N-diisopropylethylamine (DIPEA, 12.4 mL, 71 mmol) in toluene (150 mL) at 5° C., and the reaction mixture is stirred at ambient temperature for 2 hours. To the mixture, water and ethyl acetate are added and the organic layer is washed with sat. NaHCO3 aq, brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give crude 2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-3-(chloromethyl)-6,7-difluoroquinoline. To a mixture of 2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-3-(chloromethyl)-6,7-difluoroquinoline and N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amine (13.9 g, 43 mmol) in DMF (120 mL) is added potassium tert-butoxide (4.80 g, 43 mmol) at 5° C. The resulting mixture is stirred for 1 hour at the same temperature. After adding sat. NH4Cl aq., the mixture is extracted with ethyl acetate. The combined organic layer is washed with water, brine, dried over magnesium sulfate, filtrated, and concentrated. The resulting mixture is purified by silica gel column chromatography to give trans-N-[2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinolin-3-ylmethyl]-N-[3,5-bis(trifluoromethyl)benzyl](2-methyl-2H-tetrazol-5-yl)amine as a yellow amorphous.

reactant | 2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-3-(chloromethyl)-6,7-difluoroquinoline | C(C1=CC=CC=C1)OCCC1CCC(CC1)[C@@H]1N(CCC1)C1=NC2=CC(=C(C=C2C=C1CCl)F)F | C29H33ClF2N2O
reactant | N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amine | 43 mmol, 13.9 g | FC(C=1C=C(CNC=2N=NN(N2)C)C=C(C1)C(F)(F)F)(F)F | C11H9F6N5
reactant | potassium tert-butoxide | 43 mmol, 4.80 g | CC(C)([O-])C.[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | trans-N-[2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinolin-3-ylmethyl]-N-[3,5-bis(trifluoromethyl)benzyl](2-methyl-2H-tetrazol-5-yl)amine | C(C1=CC=CC=C1)OCC[C@@H]1CC[C@H](CC1)[C@@H]1N(CCC1)C1=NC2=CC(=C(C=C2C=C1CN(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=1N=NN(N1)C)F)F | C40H41F8N7O
